US05360904
To a suspension of potassium glycolate (11.4 g) in acetonitrile (30 ml) KI (0.5 g) and acetoxymethyl bromide (19 g) were added. The mixture was stirred at 50° C. for 6 hours, and then cooled to room temperature. Diethyl ether was added and the solid filtered off. The solution was evaporated in vacuo and the oily residue was purified by column chromatography to yield 8 g of acetoxymethyl glycolate as a colourless oil.

reactant | potassium glycolate | 11.4 g | C(CO)(=O)[O-].[K+]
reactant | acetoxymethyl bromide | 19 g | C(C)(=O)OCBr | C3H5BrO2
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | acetoxymethyl glycolate | 8 g | C(CO)(=O)OCOC(C)=O | C5H8O5
